US07265111B2
(R)-1-(3-Chloro-thiophen-2-ylmethyl)-propylamine hydrochloride (1.36 g, 6 mmoles) and 6-chloro-9-((3aS,4R,6S,6aR)-6-fluoromethyl-2,2-dimethyl-tetrahydro -cyclopenta-1,3-dioxol-4-yl)-9H-purine (1.63 g, 5 mmoles) prepared as described above were combined in nBuOH (40 ml), iPr2NEt (3.5 ml, 20 mmoles) was then added and the resulting solution was stirred at reflux under an argon atmosphere. After 5 h, the reaction mixture was cooled down to room temperature, partitioned between water, brine and EtOAc, the aqueous layer was separated and extracted two times with EtOAc. The combined organic layers were washed with brine and dried over sodium sulfate. The filtrate is concentrated under reduced pressure to give a residue which was purified by flash chromatography on silica gel eluting with 2% MeOH in CH2Cl2 to yield [(R)-1-(3-chloro-thiophen-2-ylmethyl)-propyl]-[9-((3aS,4R,6S,6aR)-6-fluoromethyl-2,2-dimethyl -tetrahydro-cylopenta-1,3-dioxol-4-yl)-9H-purin-6-yl]-amine

reactant | (R)-1-(3-Chloro-thiophen-2-ylmethyl)-propylamine hydrochloride | 6 mmoles, 1.36 g | Cl.ClC1=C(SC=C1)C[C@@H](CC)N
reactant | 6-chloro-9-((3aS,4R,6S,6aR)-6-fluoromethyl-2,2-dimethyl-tetrahydro -cyclopenta-1,3-dioxol-4-yl)-9H-purine | 5 mmoles, 1.63 g | ClC1=C2N=CN(C2=NC=N1)[C@@H]1C[C@@H]([C@H]2OC(O[C@H]21)(C)C)CF | C14H16ClFN4O2
reactant | iPr2NEt | 20 mmoles, 3.5 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | nBuOH | 40 ml | C(CCC)O | C4H10O
product | [(R)-1-(3-chloro-thiophen-2-ylmethyl)-propyl]-[9-((3aS,4R,6S,6aR)-6-fluoromethyl-2,2-dimethyl -tetrahydro-cylopenta-1,3-dioxol-4-yl)-9H-purin-6-yl]-amine | ClC1=C(SC=C1)C[C@@H](CC)NC1=C2N=CN(C2=NC=N1)[C@@H]1C[C@@H]([C@H]2OC(O[C@H]21)(C)C)CF | C22H27ClFN5O2S
